US07157447B2
2-Azido-1-bromo-4-fluorobenzene.
2-Bromo-5-fluoro aniline (2.00 g, 10.53 mmol) was dissolved in concentrated HCl (10 mL) and water (10 mL) and cooled to 0° C. Aqueous NaNO2 solution (1.090 g, 15.8 mmol of NaNO2 in 10 mL of water) was added dropwise at such a rate that the temperature did not exceed 5° C. This mixture was stirred at 0° C. for 1.5 h. A solution of NaN3 (1.027 g, 15.8 mmol) and NaOAc (12.95 g, 158 mmol) in water (50 mL) was then added at 0–5° C. and the mixture was stirred for an additional 1 h at this temperature. The mixture was extracted with ethyl acetate and the combined extracts were washed with brine and dried over Na2SO4. The filtrate was concentrated to afford the title compound as a tan solid (2.188 g, 96%): 1H NMR (400 MHz, CDCl3): 7.53 (1H, dd, J=8.8, 5.6 Hz), 6.94 (1H, dd, J=8.8, 2.8 Hz), 6.79 (1H, ddd, J=8.8, 7.6, 2.8 Hz).

reactant | 2-Bromo-5-fluoro aniline | 10.53 mmol, 2.00 g | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | NaNO2 | 15.8 mmol, 10 mL, 1.090 g | N(=O)[O-].[Na+]
reactant | NaN3 | 15.8 mmol, 1.027 g | [N-]=[N+]=[N-].[Na+]
reactant | NaOAc | 158 mmol, 12.95 g | CC(=O)[O-].[Na+]
solvent | HCl | 10 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2-Azido-1-bromo-4-fluorobenzene | 2.188 g, 96% | N(=[N+]=[N-])C1=C(C=CC(=C1)F)Br | C6H3BrFN3
